US04353919
4-Chloro-benzothiazol-2(3H)-one
Prepared analogous to Example 5 from 4-chloro-2-methoxy-benzothiazole and concentrated hydrochloric acid with a yield of 26% of theory. M.p.: 205°-206° C. (from 1,2-dichloro-ethane)

reactant | 4-chloro-2-methoxy-benzothiazole | ClC1=CC=CC2=C1N=C(S2)OC | C8H6ClNOS
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloro-ethane | ClCCCl | C2H4Cl2
product | 4-Chloro-benzothiazol-2(3H)-one | yield of 26% | ClC1=CC=CC2=C1NC(S2)=O | C7H4ClNOS
